2100-10-30 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2100-10-29**] 01:15 PM
   placed in ed under sterile conditions
   Transferred to MICU
   Started on Meropenem
 EKG - At [**2100-10-29**] 02:20 PM
   Formal
 FEVER - 102.8
F - [**2100-10-29**] 09:00 PM
   Allergies:
   Piperacillin/Tazobactam/Dex-Is (Intraven)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2100-10-30**] 12:02 AM
   Vancomycin - [**2100-10-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2100-10-29**] 07:00 PM
   Morphine Sulfate - [**2100-10-30**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-30**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.4
C (101.2
   HR: 109 (92 - 168) bpm
   BP: 124/59(74) {117/59(74) - 170/113(127)} mmHg
   RR: 16 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 3 (3 - 21)mmHg
   Total In:
                                                                  4,047 mL
                                                                  1,569 mL
   PO:
   TF:
   IVF:
                                                                  1,817 mL
                                                                  1,479 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    380 mL
   Urine:
                                                                    745 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,302 mL
                                                                  1,189 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.46/32/132/22/0
   PaO2 / FiO2: 377
   Physical Examination
   GEN: young male, trach collar,  face diaphoretic
   HEENT: NCAT, PERRL, sclera mildly injected, nonicteric, no visual
   tracking. Neck under trach collar. Trach site clean, w/o erythema or
   drainage.
   RESP: cta superiorly, no rhonchi or wheezing
   CV: Tachycardic, regular, s1, s2 wnl, no m/r/g
   ABD: nondistended, soft, intermittently contracted
   EXT: DP2+, RP2+ bil, ankles extended, rigid in LE
   SKIN: warm, diffuse patches of redness
   NEURO: eyes open, nonverbal, no organized response to voice or touch
   though became increasing agitiated during exam with increased clenching
   of fist, flexing, posturing, and tachypnea.
   Labs / Radiology
   323 K/uL
   11.7 g/dL
   109 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   35.2 %
   15.1 K/uL
        [image002.jpg]
                             [**2100-10-30**]  12:13 AM
                             [**2100-10-30**]  04:20 AM
   WBC
   15.1
   Hct
   35.2
   Plt
   323
   Cr
   0.7
   TCO2
   23
   Glucose
   109
   Other labs: PT / PTT / INR:16.2/35.7/1.4, Differential-Neuts:87.8 %,
   Lymph:4.0 %, Mono:2.1 %, Eos:6.0 %, Lactic Acid:1.3 mmol/L, Ca++:9.1
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   22 y/o man with recent traumatic brain injury and C-spine fracture
   following MVC in [**9-17**] who presents with tachycardia, diaphoresis,
   tachypnea, fever and hypertension which appear to have been constant
   since his admission to [**Hospital1 19**] on [**2100-9-18**] and through discharge and stay
   at [**Hospital 1888**] rehab, now with CT showing bilateraly LL opacities and
   sputum gram stain with GPCs and GNRs.
   .
   # Pneumonia: CT and CXR today read as having new findings compared to
   previous, but pt's fevers, tachycardia, hypertension, and poor mental
   and neurological status have been present for several weeks. However,
   given culture prelim data, elevated WBC count today, and imaging
   results, will treat for HAP with vancomycin and meropenem. Compared to
   prior CT scan of chest, infiltrates in bilateral lower lobes are new.
   There is no evidence of pulmonary emboli on CTA. Plan to tailor
   antibiotics once cultures return. ABG reassuring (not alkalemic from
   hyperventilation).
   - will d/c levofloxacin
   - follow sputum culture and blood/urine cultures, alter medications as
   appropriate
   - inhalers prn
   - continue trach collar with supplemental oxygen prn
   # Fever/Tachicardia/HTN: evaluated during last admission by ID [**2100-10-4**],
   differential for fever included PNA, meningitis/abcess [**3-13**] previous ICP
   monitor, pancreatitis, C.diff, drug fevers and central fevers from head
   trauma. Tachicadia/HTN could either be response to fever/infection, or
   all could be symptoms of traumatic brain injury.  A case study in  Arch
   Phys Med Rehabil. [**2086**] [**Month (only) **];75(7):816-8, reports 3 patients w/ TBI all
   of which "had decorticate posturing and symptoms of autonomic
   dysfunction, manifested by tachycardia and profuse sweating. Each of
   these patients developed high fevers ranging from 38.9 degrees C to
   40.6 degrees C"
   -          no lasting response of HR to IVF boluses
   -          continue propanolol 30 q8h per prior regimen
   -          continue morphine prn for discomfort
   -          can resume prn roxicodone (usual outpatient regimen) to be
   used prior to morphine
   # RUE DVT: continue lovenox [**Hospital1 7**] dosing.
   .
   # Diffuse exonal injury: appears that there is no sig change from prior
   admission. Discuss appropriate f/u with family.
   -          amantadine & skelaxin for rigidity
   -          will contact neurosurgery today to make them aware that he
   has been readmitted
   .
   # FEN: NPO, peg in place, restart tube feeds today with nutrition
   consultation for recommendations, lyte repletion prn
   .
   #ACCESS: right femoral CVL placed in our ED, checklist in chart;
   ideally, would like to place peripheral IVs and d/c line as soon as
   possible
   .
   #PPx
   - PPI
   - on lovenox for dvt
   - bowel meds prn
   .
   #CODE: FULL
   .
   #COMMUNICATION: with patient's family, mother is HCP
   .
   #DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2100-10-29**] 01:15 PM
   Prophylaxis:
   DVT: lovenox for dvt
   Stress ulcer: ppi
   VAP:  head of bed elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu care for now, may be able to transfer back to rehab
   facility directly from icu when more stable
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM [**Known lastname 1887**]
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   diffuse axonal injury
   recurrent fevers, tachy, tachypnea, diaphoresis, hypertension
   in ER CT-A neg for PE, bibasilar pna
   given IVF
   Exam notable for Tm 102.8  BP 94/50 HR 129 RR 24 with 97 sat on TM .
   trached, unresponsive
   non-purposeful movements
   lung with airway congestion
   CT
 reviewed, as above
   Labs notable for WBC 15 K, HCT 35 , 4.2 K+ , Cr .7 , lactate 1.3
   7.46/32/132
   Problems:
   fever
   tachy
   bibasilar pna
   coma
   upper extremity DVT
   Agree with plan to continue with antibiotics, lovenox, propanolol
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 38 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2100-10-30**] 13:39 ------

2100-10-31 05:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Neurosurgery recommended collar for 2 months and then f/u MRI imaging
   Had low UOP, gave IVF
   Gave 8AM Imdur at 6AM for tachycardia and hypertension to SBP of 180s.
   Allergies:
   Piperacillin/Tazobactam/Dex-Is (Intraven)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2100-10-30**] 10:10 AM
   Vancomycin - [**2100-10-30**] 08:00 PM
   Meropenem - [**2100-10-31**] 12:19 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2100-10-30**] 08:00 AM
   Lansoprazole (Prevacid) - [**2100-10-30**] 08:00 AM
   Morphine Sulfate - [**2100-10-30**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-31**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 119 (77 - 148) bpm
   BP: 143/75(93) {94/43(57) - 174/126(138)} mmHg
   RR: 24 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,545 mL
                                                                    513 mL
   PO:
             TF:
                                                                    300 mL
                                                                    246 mL
   IVF:
                                                                  3,780 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                    927 mL
                                                                    185 mL
   Urine:
                                                                    927 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,618 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: young male, trach collar,  face diaphoretic
   HEENT: NCAT, PERRL, sclera mildly injected, nonicteric, no visual
   tracking. Neck under trach collar. Trach site clean, w/o erythema or
   drainage.
   RESP: cta superiorly, no rhonchi or wheezing
   CV: Tachycardic, regular, s1, s2 wnl, no m/r/g
   ABD: nondistended, soft, intermittently contracted
   EXT: DP2+, RP2+ bil, ankles extended, rigid in LE
   SKIN: warm, diffuse patches of redness
   NEURO: eyes open, nonverbal, no organized response to voice or touch
   though became increasing agitiated during exam with increased clenching
   of fist, flexing, posturing, and tachypnea.
   MICRO:  Sputum: GNR,  GS: GPC P/C/C, GN diplococci
   Labs / Radiology
   319 K/uL
   10.5 g/dL
   109 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   32.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2100-10-30**]  12:13 AM
                             [**2100-10-30**]  04:20 AM
                             [**2100-10-31**]  04:04 AM
   WBC
   15.1
   8.4
   Hct
   35.2
   32.5
   Plt
   323
   319
   Cr
   0.7
   TCO2
   23
   Glucose
   109
   Other labs: PT / PTT / INR:16.2/35.7/1.4, Differential-Neuts:87.8 %,
   Lymph:4.0 %, Mono:2.1 %, Eos:6.0 %, Lactic Acid:1.3 mmol/L, Ca++:9.1
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   22 y/o man with recent traumatic brain injury and C-spine fracture
   following MVC in [**9-17**] who presents with tachycardia, diaphoresis,
   tachypnea, fever and hypertension which appear to have been constant
   since his admission to [**Hospital1 19**] on [**2100-9-18**] and through discharge and stay
   at [**Hospital 1888**] rehab, now with CT showing bilateraly LL opacities and
   sputum gram stain with GPCs and GNRs.
   .
   # Pneumonia: CT and CXR today read as having new findings compared to
   previous, but pt's fevers, tachycardia, hypertension, and poor mental
   and neurological status have been present for several weeks.  Fever was
   higher on admission and has resolved somewhat with abx. However, given
   culture prelim data, elevated WBC count today, and imaging results,
   will treat for HAP with vancomycin and meropenem. Compared to prior CT
   scan of chest, infiltrates in bilateral lower lobes are new. There is
   no evidence of pulmonary emboli on CTA. Plan to tailor antibiotics once
   cultures return. ABG reassuring (not alkalemic from hyperventilation).
   - continue Vanc/[**Last Name (un) **] to complete 8 day course for HAP
   - will d/c levofloxacin
   - follow sputum culture and blood/urine cultures, alter medications as
   appropriate
   - inhalers prn
   - continue trach collar for 2 months per neurosurg recs.
   # Fever/Tachicardia/HTN: evaluated during last admission by ID [**2100-10-4**],
   differential for fever included PNA, meningitis/abcess [**3-13**] previous ICP
   monitor, pancreatitis, C.diff, drug fevers and central fevers from head
   trauma. Tachicadia/HTN could either be response to fever/infection, or
   all could be symptoms of traumatic brain injury.  A case study in  Arch
   Phys Med Rehabil. [**2086**] [**Month (only) **];75(7):816-8, reports 3 patients w/ TBI all
   of which "had decorticate posturing and symptoms of autonomic
   dysfunction, manifested by tachycardia and profuse sweating. Each of
   these patients developed high fevers ranging from 38.9 degrees C to
   40.6 degrees C"
   -          no lasting response of HR to IVF boluses
   -          increase propanolol 30mg to q6h dosing to attempt better HR
   control
   -          continue morphine prn for discomfort
   -          can resume prn roxicodone (usual outpatient regimen) to be
   used prior to morphine
   # RUE DVT: continue lovenox [**Hospital1 7**] dosing.
   .
   # Diffuse exonal injury: appears that there is no sig change from prior
   admission. Discuss appropriate f/u with family.
   -          amantadine & skelaxin for rigidity
   -          will contact neurosurgery today to make them aware that he
   has been readmitted
   .
   # FEN: NPO, peg in place, restart tube feeds today with nutrition
   consultation for recommendations, lyte repletion prn
   - some pressure damage at site of PEG tube, should have a circular
   support.  Contact surgeon who placed.
   .
   #ACCESS: Will do PICC consult today with goal to d/c right femoral CVL
   ASAP.
   .
   #PPx
   - PPI
   - on lovenox for dvt
   - bowel meds prn
   .
   #CODE: FULL
   .
   #COMMUNICATION: with patient's family, mother is HCP
   .
   #DISPO: c/o to floor or rehab
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2100-10-30**] 03:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2100-10-29**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM [**Known lastname 1887**]
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   diffuse axonal injury, persistent vegetative state
   recurrent fevers, tachy, tachypnea, diaphoesis, hypertension
   in ER CT-A neg for PE, showed pna
   given IVF
   Exam notable for Tm 100.9  BP 143/75 HR 114 RR 24 with 96 sat on 40%
   trach mask
   trach, unresponsive, collar on
   spontaneous, non-purposeful movements
   decreased bs's at bases
   tachy
   right femoral line in place
   Labs notable for WBC 8.4 K, HCT 32 , 4.3 K+ , Cr .6
   sputum: gnr's
   Problems:
   fever
   tachycardia
   bibasilar pna
   brain injury
   cervical spine injury
   upper extremity DVT
   Agree with plan to continue with antibiotics, lovenox, propanolol,
   remove CVL
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2100-10-31**] 14:06 ------

2100-11-01 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2100-11-1**] 05:00 AM
   - question of rash on chest ?
 CALLED OUT
   Allergies:
   Piperacillin/Tazobactam/Dex-Is (Intraven)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2100-10-30**] 10:10 AM
   Meropenem - [**2100-11-1**] 12:00 AM
   Vancomycin - [**2100-11-1**] 04:10 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2100-10-31**] 08:00 AM
   Enoxaparin (Lovenox) - [**2100-10-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 102 (68 - 133) bpm
   BP: 154/76(90) {123/23(47) - 170/129(133)} mmHg
   RR: 16 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  4,309 mL
                                                                  1,059 mL
   PO:
             TF:
                                                                  1,659 mL
                                                                    406 mL
   IVF:
                                                                  1,630 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    580 mL
   Urine:
                                                                  1,710 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,599 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GEN: young male, trach collar,  face diaphoretic
   HEENT: NCAT, PERRL, sclera mildly injected, nonicteric, no visual
   tracking. Neck under trach collar. Trach site clean, w/o erythema or
   drainage.
   RESP: cta superiorly, no rhonchi or wheezing
   CV: Tachycardic, regular, s1, s2 wnl, no m/r/g
   ABD: nondistended, soft, intermittently contracted
   EXT: DP2+, RP2+ bil, ankles extended, rigid in LE
   SKIN: warm, diffuse patches of redness
   NEURO: eyes open, nonverbal, no organized response to voice, clenching
   of fist, flexing, posturing, and tachypnea.
   Labs / Radiology
   387 K/uL
   11.2 g/dL
   103 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   9 mg/dL
   102 mEq/L
   136 mEq/L
   32.9 %
   7.3 K/uL
        [image002.jpg]
   Ca: 9.2 Mg: 2.2 P: 2.8
   Vanco: 18.2
                             [**2100-10-30**]  12:13 AM
                             [**2100-10-30**]  04:20 AM
                             [**2100-10-31**]  04:04 AM
                             [**2100-11-1**]  04:04 AM
   WBC
   15.1
   8.4
   7.3
   Hct
   35.2
   32.5
   32.9
   Plt
   [**Telephone/Fax (3) 1955**]
   Cr
   0.7
   0.6
   0.6
   TCO2
   23
   Glucose
   109
   105
   103
   Other labs: PT / PTT / INR:16.2/35.7/1.4, Differential-Neuts:87.8 %,
   Lymph:4.0 %, Mono:2.1 %, Eos:6.0 %, Lactic Acid:1.3 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   22 y/o man with recent traumatic brain injury and C-spine fracture
   following MVC in [**9-17**] who presents with tachycardia, diaphoresis,
   tachypnea, fever and hypertension which appear to have been constant
   since his admission to [**Hospital1 19**] on [**2100-9-18**] and through discharge and stay
   at [**Hospital 1888**] rehab, thought to be likely central fever and autonomic
   instability, but now with CT showing bilateraly LL opacities and sputum
   gram stain with GPCs and GNdiplococci.
   .
   # Pneumonia: CT and CXR today read as having new findings compared to
   previous, but pt's fevers, tachycardia, hypertension, and poor mental
   and neurological status have been present for several weeks.  Fever was
   higher on admission and has resolved somewhat with abx. However, given
   culture prelim data, elevated WBC count today, and imaging results,
   will treat for HAP with vancomycin and meropenem. Compared to prior CT
   scan of chest, infiltrates in bilateral lower lobes are new. There is
   no evidence of pulmonary emboli on CTA. Plan to tailor antibiotics once
   cultures return. ABG reassuring (not alkalemic from hyperventilation).
   - continue Vanc/[**Last Name (un) **] to complete 8 day course for HAP
   - will d/c levofloxacin
   - follow sputum culture and blood/urine cultures, alter medications as
   appropriate
   - inhalers prn
   - continue trach collar for 2 months per neurosurg recs.
   - WBC count improving, now down to 7.3
   # Fever/Tachicardia/HTN: evaluated during last admission by ID [**2100-10-4**],
   differential for fever included PNA, meningitis/abcess [**3-13**] previous ICP
   monitor, pancreatitis, C.diff, drug fevers and central fevers from head
   trauma. Tachicadia/HTN could either be response to fever/infection, or
   all could be symptoms of traumatic brain injury.  A case study in  Arch
   Phys Med Rehabil. [**2086**] [**Month (only) **];75(7):816-8, reports 3 patients w/ TBI all
   of which "had decorticate posturing and symptoms of autonomic
   dysfunction, manifested by tachycardia and profuse sweating. Each of
   these patients developed high fevers ranging from 38.9 degrees C to
   40.6 degrees C" Fevers in these patients were reduced with Propanolol.
   -          no lasting response of HR to IVF boluses
   -          increase propanolol to 40mg to q8h dosing to attempt better
   HR control and treat central fever
   -          Transition pain control from morphine to Oxycodone
   -          can resume prn roxicodone (usual outpatient regimen) to be
   used prior to morphine
   # RUE DVT: continue lovenox [**Hospital1 7**] dosing.
   - Consider repeat US before d/c to rehab or home to see if UE DVT has
   resolved, if not, should likely transition to coumadin.
   .
   # Diffuse exonal injury: appears that there is no sig change from prior
   admission. Discuss appropriate f/u with family.
   -          amantadine & skelaxin for rigidity
   -          neurosurgery aware that he has been readmitted
   -  discuss with Neurology and consider transfer from MICU to neurology
   floor.
   .
   # FEN: NPO, peg in place, restarted tube feeds with nutrition
   consultation for recommendations, lyte repletion prn
   - some pressure damage at site of PEG tube, should have a circular
   support.  Contact surgeon who placed.
   - Tube feeds held for PICC placement by IR, will restart following.
   .
   #ACCESS: Will do PICC line today in IR with goal to d/c right femoral
   CVL ASAP.
   .
   #PPx
   - PPI
   - on lovenox for dvt
   - bowel meds prn, stooling normally, heme neg.
   .
   #CODE: FULL
   .
   #COMMUNICATION: with patient's family, mother is HCP
   .
   #DISPO: c/o to floor, likely Neurolgoy with MED consult, will transfer
   after PICC placement and R fem line removed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2100-10-29**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: